US08865738B2
8.1 tert-Butyl 6-[({[3-(ethoxycarbonyl)isoxazol-5-yl]-methoxy}carbonyl)amino]-3-azabicyclo[3.1.0]hexane-3-carboxylate
The procedure described in Example 3, step 3.4. is followed. Starting from 3.00 g (15.13 mmol) of tert-butyl 6-amino-3-azabicyclo[3.1.0]hexane-3-carboxylate, 2.58 g (15.13 mmol) of ethyl 5-hydroxymethyl-isoxazole-3-carboxylate, 5.27 ml (30.26 mmol) of N,N-diisopropylethylamine and 3.05 g (15.13 mmol) of para-nitrophenyl chloroformate, 4.50 g of product are obtained in the form of a colourless oil (75%).

reactant | tert-butyl 6-amino-3-azabicyclo[3.1.0]hexane-3-carboxylate | 15.13 mmol, 3.00 g | NC1C2CN(CC12)C(=O)OC(C)(C)C | C10H18N2O2
reactant | ethyl 5-hydroxymethyl-isoxazole-3-carboxylate | 15.13 mmol, 2.58 g | OCC1=CC(=NO1)C(=O)OCC | C7H9NO4
reactant | N,N-diisopropylethylamine | 30.26 mmol, 5.27 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | para-nitrophenyl chloroformate | 15.13 mmol, 3.05 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
product | tert-Butyl 6-[({[3-(ethoxycarbonyl)isoxazol-5-yl]-methoxy}carbonyl)amino]-3-azabicyclo[3.1.0]hexane-3-carboxylate | 75% | C(C)OC(=O)C1=NOC(=C1)COC(=O)NC1C2CN(CC12)C(=O)OC(C)(C)C | C18H25N3O7
